US06218538B1
2-(4-Methyl-1-piperazinyl)ethanol
2-Chloroethanol (36.0 g, 30 mL, 0.44 mol) was added to 1-methylpiperazine (27.0 g, 30 mL, 0.27 mol) and potassium carbonate (40 g, 0.29 mol) in acetonitrile (100 mL) with stirring. The reaction mixture was heated under reflux for 48 h, then filtered, and the solids were washed with acetonitrile. The combined filtrates were evaporated under reduced pressure and the resulting oil was distilled at 12 mm Hg to give the title compound (31 g, 0.21 mol) as a light tan oil. Electrospray MS m/z 145 [M+H]+.

reactant | 2-Chloroethanol | 0.44 mol, 30 mL, 36.0 g | ClCCO | C2H5ClO
reactant | 1-methylpiperazine | 0.27 mol, 30 mL, 27.0 g | CN1CCNCC1 | C5H12N2
reactant | potassium carbonate | 0.29 mol, 40 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 100 mL | C(C)#N | C2H3N
product | 2-(4-Methyl-1-piperazinyl)ethanol | 0.21 mol, 31 g | CN1CCN(CC1)CCO | C7H16N2O
